US05618811
J. N-(t-Butyl)-2-oxo-3-amino-5-(2-methylphenyl)-7-phenyl-2,3,4,5,6,7-hexahydroazepin-1-yl ethanoic amide
A solution of 13.7 grams (31.6 mmol) N-(t-butyl)-2-oxo-3-azido-5-(2-methylphenyl)-7-phenyl-2,3,4,5,6,7-hexahydroazepin-1-yl ethanoic amide in 120 mL ethanol and 60 mL methylene chloride was hydrogenated at 42 psi in the presence of 3.9 grams 10% palladium-on-carbon for 36 hours. The reaction showed Rf =0.30/0.15 iodoplatinate positive, in 30% methanol in ethyl acetate. It was filtered through Celite with ethanol and methylene chloride, evaporated, and chromatographed on silica gel using 15% and 30% methanol in ethyl acetate as eluant to afford 12.2 grams (95%) of a foam. 1H-NMR (δ, CDCl3): 1.13 (singlet, 9H), 2.0-2.5 and 3.9 (multiplets, 6H), 2.28 (s, 3H), 3.4 (m, 1H), 4.7 (m, 2H), 5.18 (d, J=10, 1H), 5.94 (broad singlet, 1H, NH), 7.0-7.3 (m, 9H). 13C-NMR (δ, CDCl3): 19.6, 28.6, 37.3, 38.7, 40.8, 48.2, 51.1, 53.5, 60.9, 126.0, 126.4, 128.6, 128.8, 129.8, 130.6, 134.8, 138.1, 143.0, 168.0, 174.1.

reactant | N-(t-butyl)-2-oxo-3-azido-5-(2-methylphenyl)-7-phenyl-2,3,4,5,6,7-hexahydroazepin-1-yl ethanoic amide | 31.6 mmol, 13.7 grams | C(C)(C)(C)NC(CN1C(C(CC(CC1C1=CC=CC=C1)C1=C(C=CC=C1)C)N=[N+]=[N-])=O)=O | C25H31N5O2
solvent | ethanol | 120 mL | C(C)O | C2H6O
solvent | methylene chloride | 60 mL | C(Cl)Cl | CH2Cl2
solvent | methanol | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | palladium-on-carbon | 3.9 grams | [Pd] | Pd
catalyst | iodoplatinate | [H+].[H+].[Cl-].[Cl-].[Cl-].[Cl-].[Cl-].[Cl-].[K+].[I-].[Pt]
product | N-(t-Butyl)-2-oxo-3-amino-5-(2-methylphenyl)-7-phenyl-2,3,4,5,6,7-hexahydroazepin-1-yl ethanoic amide | 12.2 grams, 95% | C(C)(C)(C)NC(CN1C(C(CC(CC1C1=CC=CC=C1)C1=C(C=CC=C1)C)N)=O)=O | C25H33N3O2
